US08895736B1
Synthesis of (3E)-N-((E)-3-(4-methoxybenzylimino)-2-nitropropylidene)(4-methoxyphenyl)methanamine (I2)
A yellow-orange suspension of sodium nitromalonaldehyde monohydrate (15.7 mg, 0.10 mmol) in methanol (275 uL) and water (25 uL) was added dropwise over a 2 min period to a solution of 4-methoxybenzylamine in methanol (165 uL), water (15 uL) and 96% formic acid (0.83 uL, 0.022 mmol) and was stirred at room-temperature for 24 h. It was noted that during the NMA addition a precipitate started to crystallize out, and was analyzed and found to be the crude title compound (I2). Filtration gave a pale-yellow powder (14.5 mg, 41% crude yield) that was recrystallized from a minimum volume of absolute ethanol (˜0.75 mL) yielding 13 mg (37%) of the title compound as pale-yellow, microcrystalline flakes: mp 131.5-132° C.; HRMS calcd for C19H22N3O4 (M+H+) 356.1610, obsd 356.15571; 1H NMR (300 MHz, DMSO-d6) δ 3.737 (s, 6H), 4.621 (s, 4H), 6.891, 6.885, 6.869, 6.862 (dd, 4H), 7.196-7.167 (d, 4H), 8.840 (s, 2H), ˜11.7 (br s, 1H); 13C NMR (75 MHz, DMSO-d6) δ 145.704, 135.410, 135.380, 128.787, 128.382, 128.199, 127.879, 127.230, 120.561, 64.383, 57.309, 52.166; Anal. Calcd for C19H21N3O4 (355.39): C, 64.21; H, 5.96; N, 11.82. Found: C, 64.04; H, 5.96; N, 11.86.

reactant | sodium nitromalonaldehyde monohydrate | 0.10 mmol, 15.7 mg | O.[N+](=O)([O-])C(C=O)C=O.[Na]
reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | formic acid | 0.022 mmol, 0.83 uL | C(=O)O | CH2O2
solvent | methanol | 275 uL | CO | CH4O
solvent | water | 25 uL | O | H2O
solvent | methanol | 165 uL | CO | CH4O
solvent | water | 15 uL | O | H2O
product | (3E)-N-((E)-3-(4-methoxybenzylimino)-2-nitropropylidene)(4-methoxyphenyl)methanamine | 13 mg, 37% | COC1=CC=C(C\N=C\C(\C=N\CC2=CC=C(C=C2)OC)[N+](=O)[O-])C=C1 | C19H21N3O4
